US07060827B2
In like manner to the preparation of 5-fluoro-N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-aminobiphenyl and 2,4-dichloro-5-methylpyrimidine were reacted to provide N2,N4-bis(2-phenylphenyl)-5-methyl-2,4-pyrimidinediamine. LCMS: ret. time: 30.47 min.; purity: 91%; MS (m/e): 429 (MH+).

reactant | 2-aminobiphenyl | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | 2,4-dichloro-5-methylpyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
product | N2,N4-bis(2-phenylphenyl)-5-methyl-2,4-pyrimidinediamine | C1(=CC=CC=C1)C1=C(C=CC=C1)NC1=NC=C(C(=N1)NC1=C(C=CC=C1)C1=CC=CC=C1)C | C29H24N4
